US04168269
4,9-Dihydro-6,7-dimethyl-10H-thieno[3,4-b][1,5]benzodiazepin-10-one
To a slurry of 18.8 g. of 6,7-dimethyl-1,3,4,9-tetrahydro-10H-thieno[3,4-b][1,5]benzodiazepin-10-one in 150 ml. of pyridine, stirred in an ice bath, is added 10.1 g. of N-chlorosuccinimide portionwise over 15 minutes. The mixture is heated on a steam bath for 30 minutes, poured into one liter of water and allowed to stand overnight. The solid is filtered, washed with water, 1 N hydrochloric acid, three times with water and diethyl ether and dried giving the desired final product, mp. 233°-238° C. (dec.).

reactant | 6,7-dimethyl-1,3,4,9-tetrahydro-10H-thieno[3,4-b][1,5]benzodiazepin-10-one | CC1=CC2=C(NC(C3=C(N2)CSC3)=O)C=C1C | C13H14N2OS
reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | N-chlorosuccinimide | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | water | one liter | O | H2O
product | 4,9-Dihydro-6,7-dimethyl-10H-thieno[3,4-b][1,5]benzodiazepin-10-one | CC1=CC2=C(NC(C=3C(N2)=CSC3)=O)C=C1C | C13H12N2OS
